US04578393
1-(3-Methanesulphonamidophenyl)-1,4-dihydroisoquinol-3-one hemihydrate
A solution of 1-(3-aminophenyl)-1,4-dihydroisoquinol-3-one (8.0 g) in dichloromethane (500 ml) and triethylamine (50 ml) was treated dropwise, at room temperature, with a solution of mesyl chloride (9.7 g) in dichloromethane (20 ml). After stirring for 3 h, the resulting precipitate (m.p. 251°-253° C.) was collected, washed with dichloromethane, water, and air dried. The product was stirred with a mixture of 10% aqueous sodium hydroxide (200 ml) and methanol (20 ml) at 50° C. for 1 h. The mixture was filtered and the filtrate was evaporated to one third volume in vacuo. It was acidified with dilute hydrochloric acid, and the resulting precipitate was collected and washed with water. Recrystallisation from methanol-ether afforded the title compound (3.55 g)

reactant | 1-(3-aminophenyl)-1,4-dihydroisoquinol-3-one | 8.0 g | NC=1C=C(C=CC1)C1NC(CC2=CC=CC=C12)=O | C15H14N2O
reactant | mesyl chloride | 9.7 g | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(3-Methanesulphonamidophenyl)-1,4-dihydroisoquinol-3-one hemihydrate | 3.55 g | O.CS(=O)(=O)NC=1C=C(C=CC1)C1NC(CC2=CC=CC=C12)=O.CS(=O)(=O)NC=1C=C(C=CC1)C1NC(CC2=CC=CC=C12)=O | InChI=1S/2C16H16N2O3S.H2O/c2*1-22(20,21)18-13-7-4-6-12(9-13)16-14-8-3-2-5-11(14)10-15(19)17-16;/h2*2-9,16,18H,10H2,1H3,(H,17,19);1H2
